US07022650B2
A mixture of 0.4 g (1.24 mmol) of 5-methoxy-4-methylsulfonyl-2-(4-trifluoromethyl-1H-1-pyrazolyl)pyrimidine, 0.27 g (1.60 mmol) of 3-hydroxy-5-trifluoromethyl-thiophene and 0.34 g (2.47 mmol) of K2CO3 in 10 ml of DMF is stirred at 60° C. for 6 h and then at RT for 48 h. It is subsequently poured into 20 ml of water and extracted with four times 15 ml of CH2Cl2. The combined organic phase is dried over Na2SO4, filtered and concentrated. Chromatographic purification on silica gel with heptane/ethyl acetate (3:7) as eluent gives 0.3 g of 5-methoxy-2-(4-trifluoromethyl-1H-1-pyrazolyl)-4-(5-trifluoromethyl-3-thienyloxy)pyrimidine as colorless crystals.

reactant | 5-methoxy-4-methylsulfonyl-2-(4-trifluoromethyl-1H-1-pyrazolyl)pyrimidine | 1.24 mmol, 0.4 g | COC=1C(=NC(=NC1)N1N=CC(=C1)C(F)(F)F)S(=O)(=O)C | C10H9F3N4O3S
reactant | 3-hydroxy-5-trifluoromethyl-thiophene | 1.60 mmol, 0.27 g | OC1=CSC(=C1)C(F)(F)F | C5H3F3OS
reactant | K2CO3 | 2.47 mmol, 0.34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-methoxy-2-(4-trifluoromethyl-1H-1-pyrazolyl)-4-(5-trifluoromethyl-3-thienyloxy)pyrimidine | 0.3 g | COC=1C(=NC(=NC1)N1N=CC(=C1)C(F)(F)F)OC1=CSC(=C1)C(F)(F)F | C14H8F6N4O2S
